US06969766B2
1-(5-Chloro-benzothiazole-2-sulfonyl)-4-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(5-chloro-benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 10.98 (brs, 1H), 8.40 (m, 2H), 7.96 (s, 1H), 7.79 (m, 1H), 7.45 (d, 4H), 7.38 (t, 4H), 7.30 (t, 2H), 6.96 (t, 1H), 6.80 (s, 1H), 4.83 (s, 2H), 4.72 (s, 0.8H), 4.46 (s, 0.8H), 4.28 (s, 1.2H), 4.22 (t, 1.2H), 4.06 (t, 0.8H), 3.99 (t, 1.2H), 3.87 (t, 0.8H).

reactant | 1-(5-chloro-benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.ClC=1C=CC2=C(N=C(S2)S(=O)(=O)N2C(CNCC2)=O)C1
reactant | [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C20H17N3O5
product | 1-(5-Chloro-benzothiazole-2-sulfonyl)-4-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-piperazin-2-one | ClC=1C=CC2=C(N=C(S2)S(=O)(=O)N2C(CN(CC2)C(CN2C(=O)N=C(NC(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)=O)=O)C1 | C31H25ClN6O7S2
